US08106190B2
Under an atmosphere of hydrogen (1 atm) and in ethanol, catalytic hydrogenation of ethyl 4-nitro-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate was carried out at room temperature in the presence of 10% palladium-carbon to obtain ethyl 4-amino-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate.

reactant | ethyl 4-nitro-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate | [N+](=O)([O-])C1=CC(=C(C(=O)OCC)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C19H27N3O4
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | ethyl 4-amino-2-{[(1S,2S)-2-pyrrolidin-1-ylcyclohexyl]amino}benzoate | NC1=CC(=C(C(=O)OCC)C=C1)N[C@@H]1[C@H](CCCC1)N1CCCC1 | C19H29N3O2
